US05952511
(RS)-1-Benzyl-3-hydroxy-3-((4-methylphenyl)aminocarbonylmethyl)indolin-2-one
To a solution of 0.254 g of p-toluidine in 10 ml of dry tetrahydrofuran was added dropwise 1.3 ml of a 1.59M hexane solution of n-butyl lithium at -78° C. under a nitrogen atmosphere, followed by stirring at that temperature for 10 minutes. To the mixture was added a solution of 0.299 g of 1-benzyl-3-(ethoxycarbonylmethyl)-3-hydroxyindolin-2-one in 5 ml of dry tetrahydrofuran at -78° C., followed by stirring at that temperature for 30 minutes. Water was added to the reaction mixture, and the product was extracted with chloroform. The organic layer was dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1) to give 0.161 g (44%) of the title compound.

reactant | p-toluidine | 0.254 g | NC1=CC=C(C=C1)C | C7H9N
reactant | hexane | 1.59M | CCCCCC | C6H14
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1-benzyl-3-(ethoxycarbonylmethyl)-3-hydroxyindolin-2-one | 0.299 g | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(O)CC(=O)OCC)=O | C19H19NO4
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | (RS)-1-Benzyl-3-hydroxy-3-((4-methylphenyl)aminocarbonylmethyl)indolin-2-one | 0.161 g, 44% | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(CC(=O)NC1=CC=C(C=C1)C)O)=O | C24H22N2O3
